US05387587
A mixture of 1 g of 2,2-dimethyl-4-(2-hydroxy-4-pyridyloxy)-6-amino-3-chromanol, 10 ml of acetic anhydride and 10 ml of pyridine is allowed to stand at 20° for 16 hours. The mixture is evaporated, purified chromatographically and 2,2-dimethyl-4-(2-hydroxy-4-pyridyloxy)-6-acetamido-3-chromanol is obtained.

reactant | 2,2-dimethyl-4-(2-hydroxy-4-pyridyloxy)-6-amino-3-chromanol | 1 g | CC1(OC2=CC=C(C=C2C(C1O)OC1=CC(=NC=C1)O)N)C | C16H18N2O4
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-4-(2-hydroxy-4-pyridyloxy)-6-acetamido-3-chromanol | CC1(OC2=CC=C(C=C2C(C1O)OC1=CC(=NC=C1)O)NC(C)=O)C | C18H20N2O5
